US06391887B1
1-Morpholino-1-cyclopentene (15.2 ml, 101 mmol) is carefully added in drops to a solution of 3-bromophenylisocyanate (20.0 g, 101 mmol) in chloroform (100 ml). The batch is refluxed for 15 minutes and concentrated by evaporation in a vacuum. Column chromatography on silica gel with hexane-ethyl acetate yielded 25.0 g (88.6 mmol) of cyclopentan-2-one-1-carboxylic acid-(3-bromophenyl)amide. The latter are mixed with concentrated sulfuric acid (83 ml) and stirred for 30 minutes at 90° C. After cooling to room temperature, the batch is poured onto 600 g of ice, the precipitated solid is suctioned off and recrystallized from ethanol: 17.0 g of product.

reactant | 1-Morpholino-1-cyclopentene | 101 mmol, 15.2 ml | O1CCN(CC1)C1=CCCC1 | C9H15NO
reactant | 3-bromophenylisocyanate | 101 mmol, 20.0 g | BrC=1C=C(C=CC1)N=C=O | C7H4BrNO
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | cyclopentan-2-one-1-carboxylic acid-(3-bromophenyl)amide | 88.6 mmol, 25.0 g | BrC=1C=C(C=CC1)NC(=O)C1C(CCC1)=O | C12H12BrNO2
